US05525742
A mixture of 1-(3-fluorophenyl)cyclobutanecarbonitrile (7.41 g, 42.3 mmol) and powdered potassium hydroxide (7.0 g, 125 mmol) in ethylene glycol (100 mL) is heated at 150° C. for 7 hours. The cooled reaction mixture is diluted with ice water (140 mL) and extracted with ether (3×100 mL). The combined organics are washed with water (2×35 mL). The combined aqueous washings are cooled to 0° C. and brought to pH 3 with 6 N aqueous hydrochloric acid (30 mL). Nitrogen is bubbled through the solution to give a solid precipitate. The solid is isolated by filtration, washed with water and dried in a vacuum oven at 60° C. for 48 hours to afford 7.04 g of 1-(3-fluorophenyl)cylobutanecarboxylic acid. 1H NMR (CDCl3) δ7.27 (m, 2 H), 7.00 (m, 4 H), 2.84 (m, 2 H), 2.48 (m, 2 H), 2.10 (m, 1 H), 1.93 (m, 1 H).

reactant | 1-(3-fluorophenyl)cyclobutanecarbonitrile | 42.3 mmol, 7.41 g | FC=1C=C(C=CC1)C1(CCC1)C#N | C11H10FN
reactant | potassium hydroxide | 125 mmol, 7.0 g | [OH-].[K+]
reactant | ethylene glycol | 100 mL | C(CO)O | C2H6O2
product | 1-(3-fluorophenyl)cylobutanecarboxylic acid | 7.04 g | FC=1C=C(C=CC1)C1(CCC1)C(=O)O | C11H11FO2
